US06130238
Iron powder (2.4 g) was added in one portion to 4.6 g of 3'-ethoxy-3-nitrobiphenyl-4-acetic acid in 40 mL of glacial acetic acid and refluxed for 2 hours. The reaction mixture was concentrated to dryness, treated repeatedly with ethyl acetate and filtered to remove the insolubles. The filtrate was washed twice with 1N hydrochloric acid and brine and then dried over anhydrous sodium sulfate and concentrated to give 3.5 g (91% yield) of 6-(3-ethoxyphenyl)-2-oxindole as a light brown solid.

reactant | 3'-ethoxy-3-nitrobiphenyl-4-acetic acid | 4.6 g | C(C)OC=1C=C(C=CC1)C1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C16H15NO5
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 2.4 g | [Fe] | Fe
product | 6-(3-ethoxyphenyl)-2-oxindole | 3.5 g, 91% yield | C(C)OC=1C=C(C=CC1)C1=CC=C2CC(NC2=C1)=O | C16H15NO2
